US04250090
A. Preparation of 4-phenyl-2-(3-sulfophenylamino)-thiazole
132 parts of phenacyl thiocyanate, 38 parts of zinc chloride and 129 parts of 1-aminobenzene-3-sulfonic acid are together stirred with 750 parts of water for 20 hours at the boil. After the mixture has cooled, the product is filtered off and dried.

reactant | phenacyl thiocyanate | C(C(=O)C1=CC=CC=C1)SC#N | C9H7NOS
reactant | 1-aminobenzene-3-sulfonic acid | NC1=CC(=CC=C1)S(=O)(=O)O | C6H7NO3S
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 4-phenyl-2-(3-sulfophenylamino)-thiazole | C1(=CC=CC=C1)C=1N=C(SC1)NC1=CC(=CC=C1)S(=O)(=O)O | C15H12N2O3S2
